US09193693B2
Step 8. 3-(3-Methylmorpholino)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylate (45 mg, 0.12 mmol, 1.00 equiv) in methanol (10 mL). Then a solution of sodium hydroxide (25 mg, 0.62 mmol, 5.00 equiv) in water (2 mL) was added. The resulting solution was stirred for 2 hrs at 50° C. in an oil bath. The resulting mixture was concentrated in vacuo. The residue was diluted by 20 mL of water. The pH value of the aqueous solution was adjusted to 4-5 with aq. hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 40 mg (90%) of 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(3-methylmorpholino)-2-phenylquinoxaline-6-carboxylate | 0.12 mmol, 45 mg, 1.00 equiv | CC1COCCN1C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H21N3O3
reactant | sodium hydroxide | 0.62 mmol, 25 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(3-Methylmorpholino)-2-phenylquinoxaline-6-carboxylic acid | CC1COCCN1C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C20H19N3O3
